US05594021
N-(bromo-3-methyl-5-isoxazolyl)-5-(1-pentynyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2. Reaction of 2-chlorosulfonyl-5-(1-pentynyl)thiophene (55 mg. 0.22 mmol) with 5-amino-4-bromo-3-methylisoxazole (43 mg, 0.22 mmol) yielded 75 mg of N-(bromo-3-methyl-5-isoxazolyl)-5-(1-pentynyl)thiophene-2-sulfonamide (87% yield). A portion of the product was further purified by preparative HPLC to give the pure sulfonamide as a light brown oil.

reactant | 2-chlorosulfonyl-5-(1-pentynyl)thiophene | 0.22 mmol, 55 mg | ClS(=O)(=O)C=1SC(=CC1)C#CCCC | C9H9ClO2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | 0.22 mmol, 43 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(bromo-3-methyl-5-isoxazolyl)-5-(1-pentynyl)thiophene-2-sulfonamide | 75 mg, 87% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C#CCCC)C | C13H13BrN2O3S2
